US08563565B2
To 100 μL of a buffer D (40 mmol/L Tris-HCl, pH: 7.4, 10 mmol/L MgCl2, 1 mM DTT, 2 μM cGMP) solution containing [3H]-cGMP (0.5 pa/mL), 10 μL of a compound solution for evaluation (a solution in which a compound was dissolved in DMSO and diluted so that the DMSO concentration became 5%) and 90 μL of a solution prepared by diluting the PDE9 enzyme solution prepared in the above with a buffer E (40 mmol/L Tris-HCl, pH: 7.4, 10 mmol/L MgCl2, 1 mM DTT, 1 mmol/L EGTA) were added under ice cooling. The resultant mixed solution was incubated at 30° C. for 10 min, and thereafter heated for 2 min in boiled water to stop the enzyme reaction of the PDE9. Then, the resultant was returned to room temperature; 50 μL of 5′-Nucleotidase (Biomol GmbH, 10 units/mL) was added thereto; and the resultant was incubated at 30° C. for 10 min to thereby convert [3H]-5′-GMP formed in the previous reaction to [3H]-guanosine. 500 μL of an anion exchange resin (Bio-Rad AG1-X2 resin, mesh size: 200-400, H2O:resin=2:1) was added to the resultant reaction liquid, and allowed to stand for 10 min, and thereafter centrifuged (2,000 rpm, 10 min); and a supernatant in which the [3H]-guanosine was present was transferred to a LumaPlate (PerkinElmer, Inc.), and the radioactivity was measured by a TopCount NXT microplate scintillation and luminescence counter (PerkinElmer, Inc.).

reactant | Tris-HCl | 40 mmol/L | C(C(CO)(CO)N)O.Cl
reactant | MgCl2 | 10 mmol/L, pH: 7.4 | [Mg+2].[Cl-].[Cl-]
reactant | DTT | 1 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | cGMP | 2 μM | C1=NC2=C(N1[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)NC(=NC2=O)N | C10H12N5O7P
reactant | Tris-HCl | 40 mmol/L | C(C(CO)(CO)N)O.Cl
reactant | MgCl2 | 10 mmol/L, pH: 7.4 | [Mg+2].[Cl-].[Cl-]
reactant | DTT | 1 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | EGTA | 1 mmol/L | C(COCCOCCN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C14H24N2O10
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | [3H]-guanosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)N=C(N)NC12 | C10H13N5O5
